US05030727
9-fluoro-5H-thiazolo-(2,3-b)-quinazolin-5-one (compound 9)
15.4 g of 3-fluoroanthranilamide and 13.1 g of 2-chlorothiazole were stirred for 7 hours at 150° C. After working up in the conventional manner there was obtained 17.3 g (79%) of the above compound; m.p. 187°-189° C.

reactant | 3-fluoroanthranilamide | 15.4 g | FC1=C(C(C(=O)N)=CC=C1)N | C7H7FN2O
reactant | 2-chlorothiazole | 13.1 g | ClC=1SC=CN1 | C3H2ClNS
product | 9-fluoro-5H-thiazolo-(2,3-b)-quinazolin-5-one | 17.3 g, 79% | FC=1C=CC=C2C(N3C(=NC12)SC=C3)=O | C10H5FN2OS
